US07732466B2
(b) (R)-2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionic acid
Prepared analogously to Example 2e from tert.-butyl(R)-2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionate with TFA in dichloromethane.

reactant | tert.-butyl(R)-2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionate | ClC1=CC=C(S1)C(=O)N[C@@H](C(=O)OC(C)(C)C)C | C12H16ClNO3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionic acid | ClC1=CC=C(S1)C(=O)N[C@@H](C(=O)O)C | C8H8ClNO3S
